US05401756
d) Preparation of 2,3-dihydro-6-hydroxy-2-(3-pyridylmethyl)-1H-isoindole-1-one
The titled compound was prepared in the same manner as in Example 10 (1) b) by refluxing 2,3-dihydro-6-methoxy-2-(3-pyridylmethyl)-1H-isoindole-1-one in 47% hydrogen bromide under heating.

reactant | 2,3-dihydro-6-methoxy-2-(3-pyridylmethyl)-1H-isoindole-1-one | COC1=CC=C2CN(C(C2=C1)=O)CC=1C=NC=CC1 | C15H14N2O2
solvent | hydrogen bromide | Br | BrH
product | 2,3-dihydro-6-hydroxy-2-(3-pyridylmethyl)-1H-isoindole-1-one | OC1=CC=C2CN(C(C2=C1)=O)CC=1C=NC=CC1 | C14H12N2O2
